Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
CHB 
 
Major Surgical or Invasive Procedure:
S/p PPM placement ___ with Dr. ___

 
___ of Present Illness:
Pt is a ___ with hx of dementia, HTN and hypothyroidism who 
presented from ___ with complaints of three days of dizziness, 
altered mental status and sensation of "being off balance." 
Pulse taken at ___ noted to be in ___. On admission was in CHB 
with conversion to weinckeback with activity. Pt endorses falls, 
onto side, denies head trauma or LOC. Currently no pain. Per son 
pt had been limping and had been concerned about left foot pain, 
although pt denies.  
Per son there may have been an episode of CHB ___ years ago 
where PPM was considered however response to stress test was 
appropriate.  
Currently pt denies SOB, CP, HA, vision changes, difficulty 
swallowing (although per son consumes soft solids), abd pain, 
joint pain, diarrhea or constipation. + occasional dizziness as 
above both sitting and standing.  
In ED VS 98.6 40 182/71 16 98% RA. Given 1 full dose ASA and 1L 
NS for hyponatremia 125. Troponin negative, CK elevated at 1473. 
ECG showed CHB, cardiology consulted, son consented for PPM 
placement in am 

 
Past Medical History:
Dementia  
Hypertension  
Hypothyroidism  
Hyponatremia  
Urinary incontinence  
History of ___  

 
Social History:
___
Family History:
There is no family history of premature coronary artery disease 
or sudden death. 
 
Physical Exam:
VS HR 39 184/61 100% 3L  
Gen: Elderly man in NAD  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Increased exudate on 
right eye, no scleral injection, inferior conjunctiva mildly 
injected.  
Neck: Supple with JVP of 7cm.  
CV: PMI located in ___ intercostal space, midclavicular line. 
Bradycardic, soft ___ murmur radiates to carotid and axilla.  
Chest: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by 
palpation. No abdominial bruits.  
Ext: asymmetric right ankle pitting edema and bruising, 
non-tender. left foot and ankle completely not-tender. right 
elbow ecchymosis, no TTP, full ROM.  
Skin: No stasis dermatitis, ulcers, scars, or xanthomas. 
Ecchymosis on foot and elbow as above.  
Neuro: Alert, latent speech, oriented. Moving all extremities 
and obeying commands  

Pulses:  
Right: DP 2+ ___ 2+  
Left: DP 2+ ___ 2+  

 
Pertinent Results:
___ 04:20PM BLOOD WBC-7.3 RBC-3.61* Hgb-11.4* Hct-31.4* 
MCV-87 MCH-31.7 MCHC-36.4* RDW-13.4 Plt ___
___ 05:08AM BLOOD WBC-7.9 RBC-3.94* Hgb-12.2* Hct-34.8* 
MCV-88 MCH-30.9 MCHC-35.0 RDW-13.3 Plt ___
___ 05:24AM BLOOD WBC-8.7 RBC-3.85* Hgb-12.0* Hct-33.8* 
MCV-88 MCH-31.1 MCHC-35.4* RDW-13.4 Plt ___
___ 05:04AM BLOOD WBC-6.1 RBC-3.64* Hgb-11.3* Hct-31.4* 
MCV-86 MCH-31.1 MCHC-36.0* RDW-12.5 Plt ___
___ 04:20PM BLOOD ___ PTT-26.3 ___
___ 04:20PM BLOOD Glucose-104 UreaN-17 Creat-0.7 Na-125* 
K-4.4 Cl-90* HCO3-26 AnGap-13
___ 05:08AM BLOOD Glucose-123* UreaN-11 Creat-0.6 Na-125* 
K-4.2 Cl-89* HCO3-27 AnGap-13
___ 05:24AM BLOOD Glucose-103 UreaN-8 Creat-0.6 Na-126* 
K-4.0 Cl-92* HCO3-27 AnGap-11
___ 05:04AM BLOOD Glucose-97 UreaN-11 Creat-0.6 Na-121* 
K-4.2 Cl-88* HCO3-26 AnGap-11
___ 01:26PM BLOOD Na-124*
___ 04:20PM BLOOD CK(CPK)-1473*
___ 05:08AM BLOOD CK(CPK)-995*
___ 04:20PM BLOOD CK-MB-34* MB Indx-2.3
___ 04:20PM BLOOD cTropnT-<0.01
___ 05:08AM BLOOD CK-MB-26* MB Indx-2.6 cTropnT-<0.01
___ 04:20PM BLOOD Calcium-9.1 Phos-3.1 Mg-1.9
___ 05:08AM BLOOD Calcium-9.0 Phos-2.8 Mg-1.9
___ 05:24AM BLOOD Calcium-9.0 Phos-2.5* Mg-1.9
___ 05:04AM BLOOD Calcium-8.8 Phos-2.6* Mg-1.9
___ 05:08AM BLOOD TSH-1.8
 
Brief Hospital Course:
Patient is a ___ with hypertension, dementia, hypothyroidism and 
prior history of weinckebach presenting with confusion, 
dizziness, falls and complete heart block.  

# Complete heart block.  
The patient underwent placement of a pacemaker on ___.  A 
single ventricular lead with sensing in the at atrium (VDD lead) 
was implanted.  Antibiotics were prescribed for 72 hours, IV 
vanc while in house transition to PO Clinda as outpatient. CXR 
was WNL.  

  
#. HTN.  Hypertensive to SBP of 250 prior to PPM placement 
likely in setting of increased catechol state from CHB, s/p PPM 
BP better controlled in 150s.  
-norvasc increased to 10mg, goal BP 140s. 
-ACEI at home dose  
  
# Hypothyroidism. Continue levothyroxine, TSH WNL  

# Hyponatremia. Na known to be in 120s x at least ___ years. 
Slightly lower today at 120. Had IVF challenged with 1L NS in ED 
without response. No acute change in mental status. Pt 
hypertensive, without access to free water. Likely not 
psychogenic polydipsia or hypovolemic hyperntremia. Urine lytes 
c/w SIADH.  Fluid restriction initiated. Pt asymptomatic. Na 
stable 124-126 during admission.  124 at time of discharge.
 
# Report of falls, limping, right ankle swelling.  
-Head CT without evidence ICH  
-R and left ankle films read negative for fracture  
-RLE U/S negative for DVT  
-___ recommends rehab
 
# anemia. Hct 31.1, slightly down from baseline. Stable this 
hospitalization   
 
#. FEN - Cardiac healthy diet. Soft solids.  
  
#. Access: PIV  
 
#. PPx: Hep SC, bowel regimen  

#. Code: DNR/DNI, confirmed with son, HCP  
 
#. ___: to rehab per ___, will need sodium monitored at rehab, 
baseline in mid ___, 124 at time of discharge 

Contact: ___ (son, HCP) h: ___ c: 
___ w: ___  

 
Medications on Admission:
Norvasc 5mg daily  
Aricept 10mg daily  
Ca+Vit D BID  
B12 daily  
Detrol 2mg BID  
Fosinopril 20mg BID  
Synthroid ___ daily  
Namenda 5mg daily  
MVI daily  
Vitamin E daily  
Aspirin 81mg daily  

 
Discharge Medications:
1. Donepezil 5 mg Tablet Sig: Two (2) Tablet PO HS (at bedtime). 
 
2. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
3. Memantine 5 mg Tablet Sig: One (1) Tablet PO Daily ().  
4. Fosinopril 10 mg Tablet Sig: Two (2) Tablet PO BID (2 times a 
day).  
5. Cyanocobalamin 100 mcg Tablet Sig: 0.5 Tablet PO DAILY 
(Daily).  
6. Hexavitamin     Tablet Sig: One (1) Cap PO DAILY (Daily).  
7. Tolterodine 2 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
8. Levothyroxine 125 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. Senna 8.6 mg Tablet Sig: ___ Tablets PO BID (2 times a day) 
as needed.  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
11. Amlodipine 5 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
12. Clindamycin HCl 300 mg Capsule Sig: One (1) Capsule PO four 
times a day for 2 days.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Complete heart block

Secondary diagnoses
Hypertension
Hypothyoidism
Dementia
Hyponatremia

 
Discharge Condition:
Good. On day of discharge, vital signs are stable, pt pain free, 
oriented x 3.  

 
Discharge Instructions:
You were admitted with an abnormally slow heart rate. You were 
not found to have any evidence of heart attack.  You had an 
ultrasound of your leg which was negative for a blood clot, a CT 
of your head which did not show any evidence of bleeding and 
x-rays of your ankles which was negative for fracture. 
You had a pacemaker placed with Dr. ___. Please follow up at 
the device clinic as indicated below. Make sure to keep your 
device information with you at all times.  
The levels of sodium in your blood were found to be abnormally 
low, which per our records has been a problem for the past 
several years.  You should have your sodium levels checked at 
your rehab facility and follow this up with your primary care 
physician. 
Please complete the course of antibiotics as prescribed.  Your 
norvasc was increased to 10mg daily. Please take all medications 
as prescribed.  Please attend all recommended follow up 
appointments.
Call your doctor or return to the emergency room if you 
experience dizziness, headaches, falls, chest discomfort, 
headache or for any other concerning symptoms.   

It has been a pleasure caring for you!
 
Followup Instructions:
___